US08222245B2
9-[(Phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
A mixture of 9-hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (7.46 g, 41.6 mmol), benzyl bromide (Preparation 58) (5.45 ml, 45.8 mmol) and potassium carbonate (17.26 g, 125 mmol) was stirred and heated at 60° C. in DMF (75 ml) for 2 hours. Cooled, diluted with water (300 ml) and extracted with EtOAc (200 ml and 4×75 ml) and the combined organics washed with 3×100 ml of water. Dried (magnesium sulphate), evaporated, triturated with ether and filtered off to give 7.55 g of white solid. MS (ES): C16H15NO3 requires 269; found 270 [M+H]+.

reactant | 9-hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 41.6 mmol, 7.46 g | OC1=CC=CC=2C(NCCOC21)=O | C9H9NO3
reactant | benzyl bromide | 45.8 mmol, 5.45 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 125 mmol, 17.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 9-[(Phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 7.55 g | C1(=CC=CC=C1)COC1=CC=CC=2C(NCCOC21)=O | C16H15NO3
